US04814346
6,7-Dihydroxy-3-(3-methylphenyl)-4H-1-benzopyran-4-one (1.2 g), dissolved in a mixture of dioxan/ethanol 4:6 (40 ml), is hydrogenated for 24 h at room temperature over palladium 5% on active charcoal (0.48 g) in the presence of a few drops of concentrated sulphuric acid. After filtration of the catalyst, the filtrate is evaporated to dryness under vacuum. An oil is obtained which is dissolved in methylene chloride. The solution is washed with water and dried over magnesium sulphate to give an oil which on crystallization yields 3,4-dihydro-6,7-dihydroxy-3-(3-methylphenyl)-2H-1-benzopyran, m.p. 146°-148°.

reactant | 6,7-Dihydroxy-3-(3-methylphenyl)-4H-1-benzopyran-4-one | 1.2 g | OC=1C(=CC2=C(C(C(=CO2)C2=CC(=CC=C2)C)=O)C1)O | C16H12O4
reactant | charcoal | 0.48 g | C | CH4
solvent | dioxan ethanol | 40 ml | O1CCOCC1.C(C)O
catalyst | sulphuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium | [Pd] | Pd
product | 3,4-dihydro-6,7-dihydroxy-3-(3-methylphenyl)-2H-1-benzopyran | OC=1C(=CC2=C(CC(CO2)C2=CC(=CC=C2)C)C1)O | C16H16O3
